US05296454
Anhydrous diisopropylamine (24.3 g) was added to Anhydrous THF (100 ml) which was then cooled by a dry ice-acetone bath. To this solution was first added dropwise n-butyllithium (15% w/o % in Hexane, 147 ml), then in a second step a THF solution (50 ml) of 3-thiophene acetic acid methyl ester (31.2 g). Thereafter, this solution was kept at the same temperature under cooling, while stirring was continued for 30 minutes. Then, methyl iodide (36.9 g) was added in one portion to the reaction mixture which after 30 minutes, was removed from the cooling bath to be allowed to reach to room temperature. After the reaction, THF was distilled off under reduced pressure and the formed residue was dissolved in water which was extracted by two portions of 200 ml ether. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by distillation to obtain 26.6 g 2-(3-thienyl)propionic acid methyl ester with bp 90°-92° C.

reactant | diisopropylamine | 24.3 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 147 ml | C(CCC)[Li]
reactant | 3-thiophene acetic acid methyl ester | 31.2 g | COC(CC1=CSC=C1)=O | C7H8O2S
reactant | methyl iodide | 36.9 g | CI | CH3I
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(3-thienyl)propionic acid methyl ester | 26.6 g | COC(C(C)C1=CSC=C1)=O | C8H10O2S
